US08476434B2
Synthesis of 2-(4-Methyl-piperazin-1-yl)-5-trifluoromethyl-phenylamine
To 1-Methyl-4-(2-nitro-4-trifluoromethyl-phenyl)-piperazine (1.46 g, 5.05 mmol) in dry MeOH (50 mL) was added Pd/C (10%, 535 mg). H2 gas was bubbled through the solution at room temperature overnight with vigorous stirring. The reaction mixture was filtered through celite to provide, after concentration, the desired product as a white solid. MS (M+H)+=260; Calc'd 259.28 for C12H16F3N3.

reactant | 1-Methyl-4-(2-nitro-4-trifluoromethyl-phenyl)-piperazine | 5.05 mmol, 1.46 g | CN1CCN(CC1)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C12H14F3N3O2
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 535 mg | [Pd] | Pd
product | 2-(4-Methyl-piperazin-1-yl)-5-trifluoromethyl-phenylamine | CN1CCN(CC1)C1=C(C=C(C=C1)C(F)(F)F)N | C12H16F3N3
